US06207678B1
1-Methanesulphonyloxy-3-(3,4-dichlorophenyl)-4-[2-(2-methoxybenzoyl)imidazol-1-yl]butane (0.55 g) (see Preparation 84) and 4-(3,5-dimethylphenyl)quinuclidine (0.28 g) (see Preparation 12) were dissolved in acetonitrile (10 ml) and heated under reflux for 2.5 hours. The solvent was removed under reduced pressure, the resulting residue dissolved in dichloromethane and the solvent removed under reduced pressure. The residue was chromatographed on silica gel eluting with a solvent gradient of 95:5 changing to 90:10, by volume, dichloromethane:methanol to give 4-(3,5-dimethylphenyl)-1-(3-[3,4-dichlorophenyl]-4-[2-(2-methoxybenzoyl)imidazol-1-yl]butyl)quinuclidinium methanesulphonate (0.69 g) as a white foam.

reactant | 1-Methanesulphonyloxy-3-(3,4-dichlorophenyl)-4-[2-(2-methoxybenzoyl)imidazol-1-yl]butane | 0.55 g | CS(=O)(=O)OCCC(CN1C(=NC=C1)C(C1=C(C=CC=C1)OC)=O)C1=CC(=C(C=C1)Cl)Cl | C22H22Cl2N2O5S
reactant | 4-(3,5-dimethylphenyl)quinuclidine | 0.28 g | CC=1C=C(C=C(C1)C)C12CCN(CC1)CC2 | C15H21N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 4-(3,5-dimethylphenyl)-1-(3-[3,4-dichlorophenyl]-4-[2-(2-methoxybenzoyl)imidazol-1-yl]butyl)quinuclidinium methanesulphonate | 0.69 g | CS(=O)(=O)[O-].CC=1C=C(C=C(C1)C)C12CC[N+](CC1)(CC2)CCC(CN2C(=NC=C2)C(C2=C(C=CC=C2)OC)=O)C2=CC(=C(C=C2)Cl)Cl | InChI=1S/C36H40Cl2N3O2.CH4O3S/c1-25-20-26(2)22-29(21-25)36-11-17-41(18-12-36,19-13-36)16-10-28(27-8-9-31(37)32(38)23-27)24-40-15-14-39-35(40)34(42)30-6-4-5-7-33(30)43-3;1-5(2,3)4/h4-9,14-15,20-23,28H,10-13,16-19,24H2,1-3H3;1H3,(H,2,3,4)/q+1;/p-1
